US07666901B2
Preparation of Acetic acid 6,17-dihydroxy-1-methoxymethyl-10,13-dimethyl-4-morpholin-4-ylmethylene-3,7-dioxo-1,3,4,7,10,11,12,13,14,15,16,17-dodecahydro-2-oxa-cyclopenta[a]phenanthren-11-yl ester
17-Hydroxywortmannin (50 mg, 0.116 mmol) is dissolved in 2 ml methylene chloride and stirred at room temperature under nitrogen atmosphere as morpholine (0.12 mmol, 10 μl) is added. The reaction solution turns orange immediately. After 30 min, the solvent is evaporated and the solid is washed with hexane (2×3 ml) and dried under vacuum to yield 50 mg of the title compound as an orange powder. UV λmax (CH3CN/H2O): 250 nm, 320 nm, 397 nm; Positive ESI-MS: m/z 540 [M+Na]+, 518 [M+H]+.

reactant | 17-Hydroxywortmannin | 0.116 mmol, 50 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
reactant | morpholine | 0.12 mmol, 10 μl | N1CCOCC1 | C4H9NO
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | Acetic acid 6,17-dihydroxy-1-methoxymethyl-10,13-dimethyl-4-morpholin-4-ylmethylene-3,7-dioxo-1,3,4,7,10,11,12,13,14,15,16,17-dodecahydro-2-oxa-cyclopenta[a]phenanthren-11-yl ester | 50 mg | OC1=C2C(C(OC(C2(C=2C(CC3(C(CCC3C2C1=O)O)C)OC(C)=O)C)COC)=O)=CN1CCOCC1 | C27H35NO9
